US04945098
1-Hexadecyloxy-3-[4-(3-thiazolio)butoxy]-2-methylenepropane methanesulfonate
1-Hexadecyloxy-3-[4-(methanesulfonyloxy)butoxy]-2-methylenepropane (from Preparation 7) (2.5 g) was heated with thiazole (2 ml) at 60° C. for 4 days. Excess thiazole was removed in vacuo.

reactant | 1-Hexadecyloxy-3-[4-(methanesulfonyloxy)butoxy]-2-methylenepropane | 2.5 g | C(CCCCCCCCCCCCCCC)OCC(COCCCCOS(=O)(=O)C)=C | C25H50O5S
reactant | thiazole | 2 ml | S1C=NC=C1 | C3H3NS
product | 1-Hexadecyloxy-3-[4-(3-thiazolio)butoxy]-2-methylenepropane methanesulfonate | CS(=O)(=O)[O-].C(CCCCCCCCCCCCCCC)OCC(COCCCC[N+]1=CSC=C1)=C | InChI=1S/C27H50NO2S.CH4O3S/c1-3-4-5-6-7-8-9-10-11-12-13-14-15-17-21-29-24-27(2)25-30-22-18-16-19-28-20-23-31-26-28;1-5(2,3)4/h20,23,26H,2-19,21-22,24-25H2,1H3;1H3,(H,2,3,4)/q+1;/p-1
